US07977343B2
151 ml of triethylamine and subsequently 300 ml of tert-butanol are added to a solution of 83.77 g of (R)-proline methyl ester in 600 ml of tert-butanol. A solution of 96.03 g of di-tert-butyl dicarbonate [(BOC)2O] in 100 ml of tert-butanol is then added dropwise, and the mixture is stirred at room temperature for 20 hours. The deposited precipitate is separated off. The product is located in the filtrate. The solvent is removed, and the residue is taken up in 700 ml of diethyl ether. The solution is washed with 2×500 ml of 1 N HCl, 1× with 500 ml of saturated Na2CO3 solution and 1× with 500 ml of saturated NaCl solution. After drying over Na2SO4, the solvent is removed, giving 86.7 g of BOC—(R)-proline methyl ester (“1”) as a yellow oil.

reactant | triethylamine | 151 ml | C(C)N(CC)CC | C6H15N
reactant | (R)-proline methyl ester | 83.77 g | COC([C@@H]1NCCC1)=O | C6H11NO2
reactant | di-tert-butyl dicarbonate | 96.03 g | C(=O)(OC(C)(C)C)OC(=O)OC(C)(C)C | C10H18O5
solvent | tert-butanol | 600 ml | C(C)(C)(C)O | C4H10O
solvent | tert-butanol | 100 ml | C(C)(C)(C)O | C4H10O
solvent | tert-butanol | 300 ml | C(C)(C)(C)O | C4H10O
product | BOC—(R)-proline methyl ester | 86.7 g | COC([C@@H]1N(CCC1)C(=O)OC(C)(C)C)=O | C11H19NO4
